### PR TITLE
feat: remaining introduction patterns and case destruction patterns

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

Implements the remaining introduction patterns and case destruction patterns.

Addresses #213 and #239.

Features that are only used with `iintro` on the top level are implemented as introduction patterns in [`IntroPattern.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Patterns/IntroPattern.lean) and [`Intro.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Tactics/Intro.lean).

| Feature in Rocq             | Corresponding constructor in `IntroPat` | Remarks                                                                                                                                                                                                                                                                                                                                                          | Ported? |
|-----------------------------|-----------------------------------------|------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------|---------|
| IForall (`*`)               | `all` (`*`)                             | Introduces all universal quantifiers.                                                                                                                                                                                                                                                                                                                            | ✓       |
| IAll (`**`)                 | `allwand` (`**`)                        | Introduces all universal quantifiers, pure arrows and wands.                                                                                                                                                                                                                                                                                                     | ✓       |
| IPureIntro (`!%`)           | `pureintro` (`!%`)                      | Introduces a pure proof goal, which is basically the same as running `ipureintro`. This does not necessarily have to be the last in the introduction pattern sequence. If there are further introduction patterns, attempt to enter IPM again and handle the rest of the patterns. This means applying `iintro !% %_ !%` to `⊢@{PROP} ⌜⌜ϕ⌝ ⊢@{PROP} ⌜ϕ⌝⌝` works. | ✓       |
| ISimpl (`/=`)               | `simp` (`/=`)                           | Apply `dsimp`. Using `dsimp` instead of `simp` here so that it resembles the use of `simpl` in Rocq. To solve the goal directly, one can use `//=` instead (see below).                                                                                                                                                                                          | ✓       |
| IDone (`//=`)               | `simptrivial` (`//=`)                   | Shorthand for applying `/=` and then `//`.                                                                                                                                                                                                                                                                                                                       | ✓       |
| IClear (`{ selPat }`)       | `clear` (`{ selPatFrame* }`)            | The new syntax `selPatFrame` is an optional `!` followed by a selection pattern. Hypotheses chosen by selection pattern without `!` are *cleared* from the context.                                                                                                                                                                                              | ✓       |
| IClearFrame (`{ $selPat }`) | `clear` (`{ selPatFrame* }`)            | Similar to the above feature. Hypotheses chosen by the selection pattern with a leading `!` are *framed*. Using `!` instead of `$` because the latter is used for anti-quotation in Lean, which would otherwise cause parsing errors, particularly for `$#`, `$∗`, etc.                                                                                          | ✓       |

One feature that is not only used with `iintro` but also with other tactics (e.g., `icases`) is implemented as a case destruction pattern in [`CasesPattern.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Patterns/CasesPattern.lean) and [`Cases.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Tactics/Cases.lean).

| Feature in Rocq       | Corresponding constructor in `iCasesPat` | Description                                                                                                                                                                                                                       | Ported? |
|-----------------------|-----------------------------------------|-----------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------|---------|
| IRewrite (`<-`, `->`) | `rewrite` (`←`, `→`)                    | Rewrite using a pure Lean equality and then remove the equality hypothesis from the context. This also works as an introduction pattern when a pure Lean equality `ϕ` exists as a pure premise or `⌜ϕ⌝` exists as a wand premise. | ✓       |

Another feature is related to `ipure` and other tactics involving case destruction patterns.

| Feature in Lean           | Description                                                                                                                                                                                                                                                               | Ported?                                                                                                                                                                            |
|---------------------------|---------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------|------------------------------------------------------------------------------------------------------------------------------------------------------------------------------------|
| Pure destruction patterns | Extending `ipure` and other IPM tactics so that pure hypotheses can be destructed using the built-in destruction patterns in Lean. For example, given `p ∧ q → ⊢ □ ⌜((a ∧ b) ∧ c)⌝ -∗ P -∗ Q -∗ R`, one should be able to apply `iintro %⟨hp, hq⟩ %⟨⟨ha, hb⟩, hc⟩ HP HQ`. | ✓  (see the related [diff](https://github.com/leanprover-community/iris-lean/pull/496/changes/761dac6145ee87208c5365013aaaaad8e6ec22f9..da56fe624ca7fd550e8cd9e17a15eace20fe5079)) |

Here we are re-using the [built-in syntax `rcasesPat` and functions in `RCases.lean` for `rintro`/`rcases`](https://github.com/leanprover/lean4/blob/master/src/Init/RCases.lean#L65-L88), which is more expressive than `intro`/`cases`.

### Other Changes

- Some code refactoring in [`Clear.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Tactics/Clear.lean) and [`Pure.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Tactics/Pure.lean) so that features in relation to `iclear` can be reused for the new introduction patterns.
- For `iFrame` in [`Frame.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Tactics/Frame.lean) and `iCasesCore` in [`Cases.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Tactics/Cases.lean), the arguments `bi` and `e` are made implicit as they can always be inferred using other arguments.
- Added a line in [`SelPattern.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Patterns/SelPattern.lean) to use `addLocalVarInfo` for prettier syntax highlighting of pure hypotheses in the selection patterns.
- Generalised the type signature of the continuation function `k` for `iIntroCore` in [`Intro.lean`](https://github.com/ISTA-PLV/iris-lean/blob/IntroPats/Iris/Iris/ProofMode/Patterns/Intro.lean) so that the level `u` is universally quantified. Similar to [the change to `ProofModeContinuation`]((https://github.com/ISTA-PLV/iris-lean/blob/d8dc168056cb32bc9a1cdf29c4272de32de5a9f9/Iris/Iris/ProofMode/Tactics/RevertIntro.lean#L16-L24)) in PR #430.
- Minor improvement: `iIntroCore` and `iCasesCore` takes a string (tactic name) as an argument so that they print more accurate error messages. Same for some functions that `iIntroCore` and `iCasesCore` use.
- The new field `ref : Syntax` is introduced into `iCasesPat` so that `iCasesCore` uses `withRef` for more precise syntax highlighting of errors. This resolves a to-do comment added in [a previous commit](https://github.com/ISTA-PLV/iris-lean/commit/b02fb8306b2c66aaa336b8ee2bc5eca0cdc5c899#diff-72244f75f8b0e5ac2df2bd4370ccc711b58301565d00756a327495d602671167).

Before using `withRef` in `iCasesCore`:

<p align="center">
<img width="483" height="70" alt="Error syntax highlighting before using withRef in iCasesCore" src="https://github.com/user-attachments/assets/92e4385b-ca82-438c-85d9-9316e8af7fc1" />
</p>

After using `withRef` in `iCasesCore`:

<p align="center">
<img width="483" height="70" alt="Error syntax highlighting after using withRef in iCasesCore" src="https://github.com/user-attachments/assets/59c1140f-66b1-4a77-8c52-8a8f68c156b9" />
</p>

- Added docstring comments to `syntax` declarations in relation to `casesPat`, `introPat` and `specPat` for pop-up descriptions when one hovers over the patterns. Similar to PR #464, where docstrings annotate elaborations for tactics.

<p align="center">
<img width="552" height="70" alt="Example of a pop-up description of an introduction pattern" src="https://github.com/user-attachments/assets/fe45c09b-fd9b-409b-9a5f-90403a53c539" />
</p>

- In the `.one` case in `iCasesCore`, use `Hyps.addWithInfo` instead of `.mkHyp` and `.mkSep`. The previous approach ensures that, when the `Hyps` instance is an `.emp`, the new hypothesis is added using `.mkHyp` rather than `.mkSep`. The function `Hyps.add` (which is in turn used by `Hyps.addWithInfo`) was not able to handle this automatically, which prevented `iCasesCore` from using `Hyps.addWithInfo` directly. The function `Hyps.addWithInfo` is now updated to handle this. See commit [c59afb6](https://github.com/leanprover-community/iris-lean/pull/496/commits/c59afb610e4dd01967958f1c172eef3ba118508d) for the relevant changes. This resolves two to-do comments made in [a previous commit](https://github.com/ISTA-PLV/iris-lean/commit/b8835e6bc81f5d37d3195c2306111ffd2c3bdece).

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/ProofMode/Patterns/CasesPattern.lean [hunk 1]
```diff
@@ -15,50 +15,74 @@ open Lean
...
+/-- Eliminate the modality at the top of the hypothesis and destruct the remaining proposition. -/
 syntax ">" icasesPat : icasesPat
+/-- Introduce a pure equality and use it for rewriting in the backward direction. -/
+syntax "←" : icasesPat
+/-- Introduce a pure equality and use it for rewriting in the forward direction. -/
+syntax "→" : icasesPat
 
--- TODO: attach syntax to iCasesPat such that one can use withRef to
--- associate the errors with the right part of the syntax
 inductive iCasesPat
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/CasesPattern.lean]: Instead of adding the ref field to every constructor, maybe use something like the following?
```
inductive iCasesPatCase
| one ...

structure iCasesPat where
  ref : Syntax
  case : iCasesPatCase
```

File: Iris/Iris/ProofMode/Patterns/IntroPattern.lean [hunk 2]
```diff
@@ -1,37 +1,73 @@
...
+public import Iris.ProofMode.Patterns.SelPattern
 meta import Iris.Std.RocqPorting
 
 @[expose] public section
 
 namespace Iris.ProofMode
 open Lean
 
+declare_syntax_cat selPatFrame
+syntax ("!" noWs)? selPat : selPatFrame
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/IntroPattern.lean]: It is weird that this uses `!` instead of `$`, which is the usual symbol for framing. It is a bit annoying to use `$` since it conflicts with antiquotations, but you can use the trick [here](https://github.com/leanprover-community/iris-lean/blob/d1afca77585af1f3f7b253c3c904fd4a5abb987d/Iris/Iris/ProofMode/Patterns/SpecPattern.lean#L82) to parse this.

File: Iris/Iris/ProofMode/Tactics/Cases.lean [hunk 3]
```diff
@@ -64,29 +64,31 @@ public meta section
...
 
 private def iCasesEmptyConj {prop : Q(Type u)} (bi : Q(BI $prop))
-    {P} (_hyps : Hyps bi P) (p : Q(Bool)) (A goal : Q($prop)) :
+    {P} (_hyps : Hyps bi P) (p : Q(Bool)) (A goal : Q($prop)) (tacName : String) :
     ProofModeM (Q($P ∗ □?$p $A ⊢ $goal)) := do
   if let .defEq _ ← isDefEqQ A q(iprop(False)) then
     return q(false_elim')
   else
-    throwError "icases: cannot destruct {A} as an empty conjunct"
+    throwError "{tacName}: cannot destruct {A} as an empty conjunct"
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Cases.lean]: We should discuss this change. I think the old approach also has merits. With `tacName`, the name of the tactic does not add any real information in the error message since the name of the tactic is also clear from the line of the script where the error is. But with the `icases`, it is clearer which subpart of the tactic is the problem. But maybe if we have good error locations, this is less relevant and we should remove the name before the colon all together?

File: Iris/Iris/ProofMode/Tactics/Pure.lean [hunk 4]
```diff
@@ -29,41 +29,141 @@ theorem pure_elim_intuitionistic [BI PROP] {P P' A Q : PROP} {φ : Prop}
...
 open Lean Elab Tactic Meta Qq
 
-def iPureCore {prop : Q(Type u)} (_bi : Q(BI $prop))
-    (P P' : Q($prop)) (p : Q(Bool)) (A Q : Q($prop)) (name : TSyntax ``binderIdent) (pf : Q($P ⊣⊢ $P' ∗ □?$p $A))
-    (k : (φ : Q(Prop)) → Q($φ) → ProofModeM (Q($P' ⊢ $Q))) : ProofModeM (Q($P ⊢ $Q)) := do
+/--
+  Apply a destruction pattern for pure hypotheses.
+  Then, apply the function `k` to all subgoals generated by the destruction.
+-/
+def iPureDestruct (ty : Q(Prop)) (pat : TSyntax `rcasesPat)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Pure.lean]: Did you use "destruct" on purpose here or should it be called "cases"?

File: Iris/Iris/ProofMode/Tactics/Cases.lean (hunk 3 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Tactics/Cases.lean]: In any case, I think it would be good to do this change in a separate PR.

File: Iris/Iris/ProofMode/Tactics/Intro.lean [hunk 5]
```diff
@@ -53,79 +54,155 @@ theorem wand_intro_spatial [BI PROP] {P Q A1 A2 : PROP}
...
+    | .modintro =>
+      iModIntroCore hyps Q (← `(_)) tacName (iIntroCore · · pats tacName k)
+    | .trivial =>
+      if let some r ← iTrivial hyps Q then
+        return r
+      else
+        iIntroCore hyps Q pats tacName k
+    | .simp =>
+      let simpCtx ← Simp.mkContext (simpTheorems := #[← getSimpTheorems])
+      let ⟨Q', _⟩ ← Lean.Meta.dsimp Q simpCtx #[← Simp.getSimprocs]
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Intro.lean]: This should probably call `simp` instead of `dsimp`.

File: Iris/Iris/ProofMode/Tactics/Intro.lean [hunk 6]
```diff
@@ -53,79 +54,155 @@ theorem wand_intro_spatial [BI PROP] {P Q A1 A2 : PROP}
...
+          iIntroCore hyps Q pats tacName k
+      -- Introduction of a universally quantified variable
+      iIntroCoreForallIntro ref none Q tacName k'
+        (fun _ B => iIntroCore hyps B ((ref, .allwand) :: pats) tacName k)
+    | .pureintro =>
+      let ⟨pf, m⟩ ← iPureIntroCore bi P Q tacName
+      if pats.isEmpty then
+        addMVarGoal m
+      else
+        let ⟨newM, g⟩ ← startProofMode m
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Intro.lean:156]: Is this case also supported in the Rocq version? It seems a bit weird to jump back into the proofmode after introducing pure.

File: Iris/Iris/ProofMode/Tactics/Intro.lean [hunk 7]
```diff
@@ -53,79 +54,155 @@ theorem wand_intro_spatial [BI PROP] {P Q A1 A2 : PROP}
...
+    | .simptrivial =>
+      iIntroCore hyps Q ((ref, .simp) :: (ref, .trivial) :: pats) tacName k
+    | .all =>
+      iIntroCoreForallIntro ref none Q tacName
+        -- No more universally quantified variable to be introduced
+        (iIntroCore hyps Q pats tacName k)
+        -- Introduction of a universally quantified variable
+        (fun _ B => iIntroCore hyps B ((ref, .all) :: pats) tacName k)
+    | .allwand =>
+      let k' : ProofModeM Q($P ⊢ $Q) := do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Intro.lean]: I would inline `k'` where it is used since this makes it easier to read the code (one does not need to jump ahead to know what `k'` is).

File: Iris/Iris/ProofMode/Tactics/Intro.lean [hunk 8]
```diff
@@ -53,79 +54,155 @@ theorem wand_intro_spatial [BI PROP] {P Q A1 A2 : PROP}
...
+        let A1 ← mkFreshExprMVarQ q($prop)
+        let A2 ← mkFreshExprMVarQ q($prop)
+        let instFromImp ← ProofModeM.trySynthInstanceQ q(FromImp $Q $A1 $A2)
+        let instFromWand ← ProofModeM.trySynthInstanceQ q(FromWand $Q .out $A1 $A2)
+        let instPersistent ← ProofModeM.trySynthInstanceQ q(TCOr (Persistent $A1) (Intuitionistic $P))
+        match instFromWand, instFromImp, instPersistent with
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Intro.lean]: Maybe extract this check into a function?

File: Iris/Iris/ProofMode/Tactics/Intro.lean [hunk 9]
```diff
@@ -53,79 +54,155 @@ theorem wand_intro_spatial [BI PROP] {P Q A1 A2 : PROP}
...
+        iClearCore hyps Q [s]
+          fun hyps' goal' fvars => withoutFVars (u := 0) fvars
+            <| iIntroCore hyps' goal' ((ref, .clear selPats) :: pats) tacName k
+      | ⟨true, s⟩ :: selPats =>
+        let res ← s.resolveOne hyps >>= iFrame hyps Q
+        res.finish (iIntroCore · · ((ref, .clear selPats) :: pats) tacName k)
+    | .intro (.rewrite _ direction) =>
+      iIntroCoreForallIntro ref none Q tacName none <|
+        fun x B => iPureRewriteCoreAux hyps B x direction tacName (iIntroCore · · pats tacName k)
+    | .intro (.pure _ pat) =>
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Intro.lean]: Why does this case not use `iIntroCoreForallIntro`?

File: Iris/Iris/ProofMode/Tactics/Intro.lean [hunk 10]
```diff
@@ -53,79 +54,155 @@ theorem wand_intro_spatial [BI PROP] {P Q A1 A2 : PROP}
...
+      match selPats with
+      | [] => iIntroCore hyps Q pats tacName k
+      | ⟨false, s⟩ :: selPats =>
+        iClearCore hyps Q [s]
+          fun hyps' goal' fvars => withoutFVars (u := 0) fvars
+            <| iIntroCore hyps' goal' ((ref, .clear selPats) :: pats) tacName k
+      | ⟨true, s⟩ :: selPats =>
+        let res ← s.resolveOne hyps >>= iFrame hyps Q
+        res.finish (iIntroCore · · ((ref, .clear selPats) :: pats) tacName k)
+    | .intro (.rewrite _ direction) =>
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Intro.lean]: Why is this not handled by the general `.intro pat` case?

File: Iris/Iris/ProofMode/Tactics/Pure.lean [hunk 11]
```diff
@@ -29,41 +29,141 @@ theorem pure_elim_intuitionistic [BI PROP] {P P' A Q : PROP} {φ : Prop}
...
-  let pf ← iPureCore bi e e' p out' goal (← `(binderIdent| $hyp:ident)) pf fun _ _ => addBIGoal hyps' goal
+  let pf ← iPureCore e e' p out' goal (← `(rcasesPat| $hyp:ident)) pf "ipure" <| addBIGoal hyps' goal
+
+  mvar.assign pf
+
+/--
+  `ipure H as pat` moves a pure hypothesis `H` from the Iris context into the
+  regular Lean context and destructs it using the `rcases` destruction pattern.
+-/
+elab "ipure " colGt hyp:ident " as " pat:rcasesPat : tactic => do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Pure.lean]: usually lean uses `with` instead of `as`, so I think this should be changed here as well.

**Review by MackieLoeffel — COMMENTED** [review]
I looked over the PR and added some comments. There is quite a lot going on here so I will need to take a second look after the comments are addressed.

File: Iris/Iris/ProofMode/Patterns/CasesPattern.lean (hunk 1 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/CasesPattern.lean]: Resolved in commit [1dfec6b](https://github.com/leanprover-community/iris-lean/pull/496/commits/1dfec6b1068029f9d4bc250d8de01fa3ee2d5f28).

File: Iris/Iris/ProofMode/Tactics/Intro.lean (hunk 7 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Intro.lean]: Resolved in commit [5d73855](https://github.com/leanprover-community/iris-lean/pull/496/commits/5d738551786d8fa9c1efb4be05a6982c16b3f94a).

File: Iris/Iris/ProofMode/Tactics/Intro.lean (hunk 8 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Intro.lean]: Resolved in commit [cb5a8e0](https://github.com/leanprover-community/iris-lean/pull/496/commits/cb5a8e0a0efa07109a0e0ace33fce4ed7064b49c).

File: Iris/Iris/ProofMode/Tactics/Pure.lean (hunk 4 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Pure.lean]: No particular reason (just influenced by e.g. `iDestruct` in Rocq). It is now renamed as `iPureCases`.

Commit: [94f3224](https://github.com/leanprover-community/iris-lean/pull/496/commits/94f32245380451f79d1d3ad8174daecf4cfaf8ba).

File: Iris/Iris/ProofMode/Tactics/Intro.lean (hunk 6 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Intro.lean:156]: Yes, this is actually an edge case I found while checking the behaviour of the Rocq tactic `iIntro`.

I assume no one ever writes such a theorem, but there is a test in `Tests/Tactics.lean` for this:

```
example {ϕ : Prop} [BI PROP] : ⊢@{PROP} ⌜⌜ϕ⌝ ⊢@{PROP} ⌜ϕ⌝⌝ := by
  iintro !% %_ !%
  assumption
```

File: Iris/Iris/ProofMode/Tactics/Pure.lean (hunk 11 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Pure.lean]: Resolved in commit [5cc8162](https://github.com/leanprover-community/iris-lean/pull/496/commits/5cc81628d4e45a99f8801b16719d423525ee0a25).

File: Iris/Iris/ProofMode/Tactics/Intro.lean (hunk 10 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Intro.lean]: Suppose we remove the case `.intro (.rewrite direction)` in `iIntroPat`. The introduction patterns `→` and `←` are then indeed handled by the general `.intro pat` case, and we would expect `iCasesCore` to finish the rewriting.

The following example indeed works, where the equalities `a = b` and `b = c` are used for rewriting `a = c` into `b = b`:

```lean4
example [BI PROP] (a b c : Prop) :
   ⊢@{PROP} ⌜a = b⌝ -∗ ⌜b = c⌝ -∗ ⌜a = c⌝ := by
  iintro → ←
  ipureintro
  and_intros <;> rfl
```

The tactic would, on the contrary, fail when the equality exists as a pure premise rather than as a wand premise. For example:

```lean4
example [BI PROP] (m n : Nat) (a b c : Prop) :
    m = 2 → 3 = n → ⊢@{PROP} ⌜a = b⌝ -∗ ⌜b = c⌝ -∗ ⌜m.succ = n ∧ a = c⌝ := by
  iintro → ← ← →
  ipureintro
  and_intros <;> rfl
```

After the implicit `istart`, we get `∀ (_ : m = 2) (_ : 3 = n), ⌜a = b⌝ -∗ ⌜b = c⌝ -∗ ⌜m.succ = n ∧ a = c⌝`. This does not match the shape for `FromImp` or `FromWand` synthesis in the general `.intro pat` case.

This is why `iIntroCoreForallIntro` is used in the dedicated case for `.rewrite` in `iIntroCore` to enable `FromForall` synthesis.

File: Iris/Iris/ProofMode/Patterns/IntroPattern.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/IntroPattern.lean]: Implemented in commit [ed2a1b8](https://github.com/leanprover-community/iris-lean/pull/496/commits/ed2a1b837fad8136cbb305c9f4b80cf24e3f6eec).

The anti-quotation trick does not work with `$%`, `$#` and `$∗` as it requires `$` to be followed by an identifier. The solution here is to define these three patterns as distinct `selPatFrame` tokens. Now `$` is used for framing consistent with the Rocq version and the specialisation patterns.

File: Iris/Iris/ProofMode/Tactics/Cases.lean (hunk 3 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Cases.lean]: My idea is to implement the `ProofModeM` solution discussed here: https://github.com/leanprover-community/iris-lean/pull/516#issuecomment-4979668436, once all the tactic PRs are merged. All those passing of tactic names will then no longer be necessary. How do you think about this proposal?

Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Tactics/Cases.lean]: This would be one solution. I am not fully sure if this is what we want, but let's discuss this separately from this PR.

File: Iris/Iris/ProofMode/Tactics/Intro.lean (hunk 5 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Intro.lean]: Replaced `dsimp` with `simp` in commit [46d7b23](https://github.com/leanprover-community/iris-lean/pull/496/commits/46d7b237d61cb12b9274a7e2b1c399fefa67a2c9).

File: Iris/Iris/ProofMode/Tactics/Intro.lean (hunk 9 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Intro.lean]: It did, but at some point when the generalised pure introduction pattern with `rcasesPat` is implemented, `iIntroCoreForallIntro` could no longer be used because it was designed to apply the continuation function exactly once.

The function is now generalised so that `.intro (.pure …)`, `.intro (.rewrite …)`, `.all` and `.allwand` can all use `iIntroCoreForallIntro`.

Commit: [82d5f5e](https://github.com/leanprover-community/iris-lean/pull/496/commits/82d5f5eacb1a14306a9088354cf6c3853f83e56d)

**Comment by MackieLoeffel** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/iris-lean/commits/9f3cf7e21bca4dfb6eb6d0ec080d841756022d25?reference=3e2b759dd3e928f4a31535afd07ea571325f0b8a) for 9f3cf7e21bca4dfb6eb6d0ec080d841756022d25 against 3e2b759dd3e928f4a31535afd07ea571325f0b8a are in. No significant results found. @MackieLoeffel

- 🟥 `build//instructions`: **+10.2G** (**+0.65%**)

**Small changes (4🟥)**

- 🟥 `build/module/Iris.ProofMode.Patterns.IntroPattern//instructions`: **+752.7M** (**+35.37%**) (reduced significance based on *//lines)
- 🟥 `build/module/Iris.ProofMode.Tactics.Induction//instructions`: **+147.1M** (**+1.28%**)
- 🟥 `build/module/Iris.ProofMode.Tactics.Intro//instructions`: **+4.5G** (**+17.80%**) (reduced significance based on *//lines)
- 🟥 `build/module/Iris.ProofMode.Tactics.Pure//instructions`: **+1.2G** (**+18.66%**) (reduced significance based on *//lines)

File: Iris/Iris/ProofMode/Patterns/IntroPattern.lean [hunk 12]
```diff
@@ -1,37 +1,87 @@
...
   | intro (case : iCasesPat)
   | trivial
   | modintro
-  deriving Repr, Inhabited
+  | simp
+  | simptrivial
+  | all
+  | allwand
+  | pureintro
+  | clear (selPats : List <| Bool × SelPat)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/IntroPattern.lean:65]: Please add a comment that says what the Bool means.

File: Iris/Iris/ProofMode/Patterns/IntroPattern.lean [hunk 13]
```diff
@@ -1,37 +1,87 @@
...
 
 namespace Iris.ProofMode
 open Lean
 
+declare_syntax_cat selPatFrame
+syntax selPat : selPatFrame
+syntax "$%" : selPatFrame
+syntax "$%" noWs ident : selPatFrame
+syntax "$#" : selPatFrame
+syntax "$∗" : selPatFrame
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/IntroPattern.lean:27]: These are missing doc comments.

File: Iris/Iris/ProofMode/Patterns/CasesPattern.lean [hunk 14]
```diff
@@ -15,50 +15,73 @@ open Lean
...
+  | pure (pat : TSyntax `rcasesPat)
+  | intuitionistic (pat : iCasesPatCase)
+  | spatial (pat : iCasesPatCase)
+  | mod (pat : iCasesPatCase)
+  | rewrite (forward : Bool)
   deriving Repr, Inhabited
 
+structure iCasesPat where
+  ref : Syntax
+  case : iCasesPatCase
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Patterns/CasesPattern.lean:54]: `iCasesPat` needs to be mutually recursive with `iCasesPatCase`. Otherwise, the error highlighting always refers to the outermost syntax, not to the actual syntax where the error is. In particular, the example from the PR description for the error highlighting is currently broken. (Not sure if it is possible to create a test for this.)

File: Iris/Iris/ProofMode/Porting.lean [hunk 15]
```diff
@@ -70,15 +70,15 @@ import Iris.Std.RocqPorting
...
+#rocq_concept proofmode "Intro Patterns" "ISimpl (pattern: /=)" ported "pattern: /="
 #rocq_concept proofmode "Intro Patterns" "IDone (pattern: //)" ported "pattern: //"
-#rocq_concept proofmode "Intro Patterns" "IForall (pattern: *)" missing ""
-#rocq_concept proofmode "Intro Patterns" "IAll (pattern: **)" missing ""
-#rocq_concept proofmode "Intro Patterns" "IClear (pattern: {selpat})" missing ""
-#rocq_concept proofmode "Intro Patterns" "IClearFrame (pattern: {$selpat})" missing ""
+#rocq_concept proofmode "Intro Patterns" "IForall (pattern: *)" ported "pattern: *"
+#rocq_concept proofmode "Intro Patterns" "IAll (pattern: **)" ported "pattern: **"
+#rocq_concept proofmode "Intro Patterns" "IClear (pattern: {selpat})" ported "pattern: { H, ... }"
+#rocq_concept proofmode "Intro Patterns" "IClearFrame (pattern: {$selpat})" ported "pattern: { !H, ... }"
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Porting.lean]: The `!` should be `$`.

File: Iris/tactics.md [hunk 16]
```diff
@@ -106,8 +108,14 @@ Example:
...
 - `!>` — Introduce the modality at the top of the goal (like `imodintro`).
 - `//` — Try to close the goal with `itrivial` (and continue with the remaining patterns if it fails).
-
-Example: `iintro %x ⟨HP, #HQ⟩ !> //`.
+- `*` — Introduce all universal quantifiers.
+- `**` — Introduce all universal quantifiers, pure arrows, and wands.
+- `!%` — Introduce a pure proof goal and exit the proof mode.
+- `/=` — Apply simplification.
+- `//=` — Apply simplification and try solving the goal using `itrivial`. This is a shorthand for `/=` and `//`.
+- `{` [*selPats*](#selection-patterns) `}` — Clear the selection hypotheses chosen by the selection patterns *selPats*. Each element in *selPats* can be prefixed with `!` so that the chosen hypotheses are framed instead.
```
Comment (MackieLoeffel) [inline Iris/tactics.md]: The `!` should be `$`.

File: Iris/Iris/ProofMode/Tactics/Pure.lean [hunk 17]
```diff
@@ -29,41 +29,141 @@ theorem pure_elim_intuitionistic [BI PROP] {P P' A Q : PROP} {φ : Prop}
...
+  let gs ← withRef pat <| Lean.Elab.Tactic.RCases.rintro #[pat] none m.mvarId!
+  for g in gs do
+    g.withContext do g.assign (← k g)
+  instantiateMVars m
+
+/--
+  Rewrite an Iris entailment using the pure Lean equality `h`,
+  removing it from the context afterwards.
+-/
+def iPureRewriteCoreAux {u} {prop : Q(Type u)} {bi : Q(BI $prop)} {e}
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Pure.lean]: I am wondering, are all the rewriting and cases intropatterns actually necessary or can they be replaced by the corresponding `rcases` pattern? In the testcase, we can use `iintro %rfl %rfl %rfl %rfl` instead of `iintro → ← ← →`.

File: Iris/Iris/ProofMode/Patterns/IntroPattern.lean (hunk 12 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/IntroPattern.lean:65]: Resolved in commit [040f358](https://github.com/leanprover-community/iris-lean/pull/496/commits/040f358a2fe81eb16afed620b23db2e82c6f2492).

File: Iris/Iris/ProofMode/Patterns/IntroPattern.lean (hunk 13 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/IntroPattern.lean:27]: Comments added in commit [d71263d](https://github.com/leanprover-community/iris-lean/pull/496/commits/d71263d6b1012bc434d976a6bb3e270b29456c3c).

**Comment by alvinylt** [comment]
All changes in relation to the tactic names for error messages are reverted in commit [e8f070a](https://github.com/leanprover-community/iris-lean/pull/496/commits/e8f070a04c74dc5937938fb1e9d9775950663b2b).

File: Iris/Iris/ProofMode/Patterns/CasesPattern.lean (hunk 14 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Patterns/CasesPattern.lean:54]: The two structures are now defined by mutual induction, and yes, this now restores the precise the error highlighting. I'm not sure whether this can be tested by automation, but manual testing indicates that the problem is resolved.

Precise error highlighting

Commit: [844179e](https://github.com/leanprover-community/iris-lean/pull/496/commits/844179ec16e917dca9e0bd23d89f243dcb8875d8)

File: Iris/Iris/ProofMode/Porting.lean (hunk 15 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Porting.lean]: Corrected in commit [c5952dd](https://github.com/leanprover-community/iris-lean/pull/496/commits/c5952ddb5bb0cbe6f7a5f43096c255ddf02a4a3d).

File: Iris/tactics.md (hunk 16 above)
Comment (alvinylt) [reply Iris/tactics.md]: Corrected in commit [c5952dd](https://github.com/leanprover-community/iris-lean/pull/496/commits/c5952ddb5bb0cbe6f7a5f43096c255ddf02a4a3d).

File: Iris/Iris/ProofMode/Tactics/Pure.lean (hunk 17 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Pure.lean]: To some extent yes. Unlike `←` and `→`, the `rcases` pattern `%rfl` uses `subst`, so we are unable to control the direction of rewriting.

I have removed the case destruction patterns `←` and `→` and replaced all of their usage with `%rfl`.

Commits: [fcd4e2f](https://github.com/leanprover-community/iris-lean/pull/496/commits/fcd4e2fc3f5d4e65829c3c5754f463f91e17b064), [da0a23a](https://github.com/leanprover-community/iris-lean/pull/496/commits/da0a23a33110c7a53ba635fd27f3fffe5d826b8f) and [c78303d](https://github.com/leanprover-community/iris-lean/pull/496/commits/c78303d539b41077896ecc6de1f49bb4de6439f4)

Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Pure.lean]: I also found a bug with the test:

```lean4
example [BI PROP] (m n : Nat) (a b c : Prop) :
    ⊢@{PROP} ⌜m = 2⌝ -∗ ⌜3 = n⌝ -∗ ⌜a = b⌝ -∗ ⌜b = c⌝ -∗ ⌜m.succ = n ∧ a = c⌝ := by
  iintro #H1 H2 #H3 H4
  icases H1 with %rfl
  icases H2 with %rfl
  icases H3 with %rfl
  icases H4 with %rfl
  ipureintro
  and_intros <;> rfl
```

After `icases H1 with %rfl`, the proof state became:

```
PROP : Type u_1
inst✝ : BI PROP
n : Nat
a b c : Prop
⊢ 
∗H2 : ⌜3 = n⌝
□H3 : ⌜a = b⌝
∗H4 : ⌜b = c⌝
⊢ ⌜Nat.succ _fvar.85911 = n ∧ a = c⌝
```

Basically, the rewriting step may result in a variable being removed from the context, but some of the Iris hypotheses still refer to the removed variable because we created the continuation function before calling `rcases`.

Commit [da0a23a](https://github.com/leanprover-community/iris-lean/pull/496/commits/da0a23a33110c7a53ba635fd27f3fffe5d826b8f) fixes the issue with the function `iPureCasesEntails` that reads the Iris state after the rewriting.

File: Iris/Iris/ProofMode/Tactics/Pure.lean [hunk 18]
```diff
@@ -29,29 +29,83 @@ theorem pure_elim_intuitionistic [BI PROP] {P P' A Q : PROP} {φ : Prop}
...
+      let some ⟨_, hyps'⟩ := parseHyps? bi tm
+        | throwError "ipure: unable to parse the Iris context {tm}"
+      g.assign (← k hyps' goal')
+  instantiateMVars m
+
+/--
+  Apply a destruction pattern for pure hypotheses.
+  Then, apply the function `k` to all subgoals generated by the destruction.
+-/
+def iPureCases (ty : Q(Prop)) (pat : TSyntax `rcasesPat)
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Pure.lean:47]: Why do we need both `iPureCases` and `iPureCasesEntails`? `iPureCases` seems like a subset of `iPureCasesEntails`.

File: Iris/Iris/ProofMode/Tactics/Clear.lean [hunk 19]
```diff
@@ -25,14 +25,14 @@ theorem clear_intuitionistic [BI PROP] {P P' A Q : PROP}
...
-    (pf : Q($e ⊣⊢ $e' ∗ □?$p $out)) : ProofModeM Q(($e' ⊢ $goal) → $e ⊢ $goal) := do
+def iClearCoreOne {prop : Q(Type u)} (_bi : Q(BI $prop)) (e e' : Q($prop))
+    (p : Q(Bool)) (out goal : Q($prop)) (pf : Q($e ⊣⊢ $e' ∗ □?$p $out)) :
+    ProofModeM Q(($e' ⊢ $goal) → $e ⊢ $goal) := do
     match matchBool p with
     | .inl _ => return q(clear_intuitionistic (Q := $goal) $pf)
     | .inr _ =>
       let .some _ ← trySynthInstanceQ q(TCOr (Affine $out) (Absorbing $goal))
-        | throwError "iclear: {out} is not affine and the goal not absorbing"
+        | throwError "icases: {out} is not affine and the goal not absorbing"
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Tactics/Clear.lean]: Is this change from `iclear` to `icases` on purpose?

File: Iris/Iris/Tests/Tactics.lean [hunk 20]
```diff
@@ -1135,7 +1232,7 @@ example [BI PROP] : ⊢@{PROP} (⌜φ2⌝ -∗ <absorb> emp) := by
   intro _; trivial
 
 /- Tests `ipureintro` failure -/
-/-- error: ipureintro: P is not pure -/
+/-- error: ipure: P is not pure -/
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/Tactics.lean]: This should be `ipureintro`, not `ipure`.

File: Iris/Iris/ProofMode/Tactics/Clear.lean (hunk 19 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Clear.lean]: Oops... a typo made whilst reverting the `tacName` changes.

Now fixed in commit [65a4512](https://github.com/leanprover-community/iris-lean/pull/496/commits/65a4512296181afb4663407b99dc636c76627c06).

File: Iris/Iris/Tests/Tactics.lean (hunk 20 above)
Comment (alvinylt) [reply Iris/Iris/Tests/Tactics.lean]: Typo fixed in commit [65a4512](https://github.com/leanprover-community/iris-lean/pull/496/commits/65a4512296181afb4663407b99dc636c76627c06).

File: Iris/Iris/ProofMode/Tactics/Pure.lean (hunk 18 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Tactics/Pure.lean:47]: Actually the other way round, `iPureCasesEntails` is effectively a wrapper of `iPureCases` with `k` involving steps that parses the Iris entailment.

I did some refactoring to remove `iPureCasesEntails` and have its call sites using `iPureCases` instead. Also, the parsing of entailment is generic so it is defined a reusable function in `Expr.lean`.

Commit: [5cdeaec](https://github.com/leanprover-community/iris-lean/pull/496/commits/5cdeaec663d2f2cf14e2ecf831325d4461055c06)

**Comment by MackieLoeffel** [comment]
I made a final cleanup pass and this looks good to me now! I will merge this once the pipeline passes. Thanks for all your work on this, this PR contains many great features!
